US07592357B2
Step 1. N-(6-Fluoro-1H-indazol-5-yl)-3-oxobutanamide
Diketene (stabilized w/copper sulfate, 1.0 mL, 12.9 mmol, 1.5 equiv) was added to a suspension of 6-fluoro-1H-indazol-5-amine (1.3 g, 8.6 mmol, 1 equiv) in acetonitrile (8 mL) at 0° C. over 30 minutes. The reaction mixture was then stirred at room temperature for 16 hours. The mixture was diluted with cold diethyl ether (20 mL) and the solid product was collected by filtration and washed several times with cold diethyl ether. The title compound was isolated as a pale brown powder (1.49 g, 74%). MS m/z 236 [M+H]+

reactant | Diketene | 12.9 mmol, 1.0 mL, 1.5 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 6-fluoro-1H-indazol-5-amine | 8.6 mmol, 1.3 g, 1 equiv | FC1=C(C=C2C=NNC2=C1)N | C7H6FN3
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | N-(6-Fluoro-1H-indazol-5-yl)-3-oxobutanamide | FC1=C(C=C2C=NNC2=C1)NC(CC(C)=O)=O | C11H10FN3O2
